Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / codeine
 
Attending: ___.
 
Chief Complaint:
back burning
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH significant for Afib, CKD stage III, 
hypertension, and lumbar spinal stenosis treated with back 
injections, who presents with back pain. She describes a burning 
sensation that has been ongoing for ___ weeks intermittently. 
She denies nausea, vomiting, diaphoresis, lightheadedness, 
syncope, chest pain, or SOB. No recent trauma or falls. The 
patient took ___ 325mg prior to coming to the ED. Of note, the 
patient's burning pain began after she received a cortisone 
injection to her R shoulder for a rotator cuff tear. Patient 
also started applying ___ pain cream to her shoulders 
4 weeks ago that also conincides with her pain.
  
In the ED, initial vitals were 97 77 143/53 16 99%. Labs were 
notable for Cr 1.1 (baseline), K 3.0, Cr 3.0, AG 18, Mg 1.2, 
trop <0.01 and negative x 2. EKG showed Afib with ? 
ST-depressions in V2-V6. CTA was negative for pulmonary embolism 
and dissection. The patient was given potassium PO/IV, Mg IV, 
___ 325mg, and tylenol.

On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
- Atrial fibrillation on ___ 325mg
- CKD Stage III ___ longstanding hypertension (baseline 1.2)
- Hypercholesterolemia
- Hypertension
- Lumbar spinal stenosis
- Diverticulosis
- Carpal tunnel syndrome
- Cerebral aneurysm, nonruptured
- Obesity
- Mild cognitive impairment
- History of hip fracture
- Osteoporosis
- Anxiety
 
Social History:
___
Family History:
Significant for coronary artery disease in both parents. She 
also has a family history of breast and colon cancer, and 
diabetes.  
 
Physical Exam:
ADMISSION PE:

VS: 97.6; 134/42; 68; 16; 97RA
General:  Well appearing female, lying in bed in NAD
HEENT:  NCAT. Upper dentures. EOMI. MMM. 
Neck:  No JVP elevation
CV:  RRR, no MRG
Lungs:  CTAB
Abdomen:  BS+, non-tender, non-distended
Ext: WWP. No peripheral edeam. 1+ pedal pulses.
Neuro:  A&Ox3. RUE strength testing and ROM at shoulder limited 
___ pain
Skin:  No rashes or lesions noted.

DISCHARGE PE:

VS: 97.3; 100-130/50; 60; 18; 97RA
Wt: 67.6
Tele: episodes of afib

General:  Well appearing female, lying in bed in NAD
HEENT:  NCAT. Upper dentures. EOMI. MMM. 
Neck:  No JVP elevation
CV:  RRR, no MRG
Lungs:  CTAB
Abdomen:  BS+, non-tender, non-distended
Ext: WWP. No peripheral edeam. 1+ pedal pulses.
 
Pertinent Results:
ADMISSION LABS:

___ 05:50AM BLOOD WBC-8.6 RBC-4.39 Hgb-13.5 Hct-37.6 MCV-86 
MCH-30.7 MCHC-35.9* RDW-12.9 Plt ___
___ 05:50AM BLOOD ___ PTT-27.5 ___
___ 05:50AM BLOOD Glucose-136* UreaN-16 Creat-1.1 Na-133 
K-3.0* Cl-93* HCO3-22 AnGap-21*
___ 05:50AM BLOOD Calcium-9.8 Phos-3.1 Mg-1.2*
___ 05:50AM BLOOD cTropnT-<0.01

DISCHARGE LABS:

___ 06:25AM BLOOD WBC-10.1 RBC-4.02* Hgb-12.6 Hct-34.9* 
MCV-87 MCH-31.4 MCHC-36.2* RDW-13.2 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD ___ PTT-57.1* ___
___ 06:25AM BLOOD Glucose-101* UreaN-17 Creat-1.0 Na-132* 
K-4.2 Cl-98 HCO3-24 AnGap-14
___ 06:25AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.5*

MICRO: none

CTA ___: STUDIES/IMAGING:

1.  No evidence of pulmonary embolism or aortic abnormality.
2.  Mild centrilobular emphysema.
3.  Extensive atherosclerotic disease.

Cardiac Perfusion/Stress testing:  1.  Normal cardiac perfusion.
2.  Normal wall motion with an ejection fraction of 62%.  No 
anginal type symptoms or ischemic EKG changes. Nuclear
report sent separately.
 
Brief Hospital Course:
___ with PMH significant for Afib, CKD, and hypertension who 
presents with back pain/burning with negative troponins, no EKG 
changes and CTA negative for disection.
 
# Back Pain - possible cardiac etiology though negative 
troponins and ? EKG  changes. Disection ruled out with negative 
CTA. Also appears that back pain chronic in nature and 
interestingly correlates with initiation of pain cream usage. 
Also possible ___ cortisone injection and associated neuropathic 
pain but less likely. Patient underwent adenosine MIBI which was 
negative for ischemia and showed normal perfusion. Of note, 
patient had minimal further pain when cream washed off back. 
While not certain that symptoms ___ cream, negative stress and 
perfusion imaging reassuring that pain unlikely antypical 
angina. Patient remained pain free for the remainder of her 
hospitalization and was advised to follow up with her PCP if 
back pain returns. She was also advised to avoid using the pain 
cream.

# Hyponatremia - mild, likely in setting of NPO status and 
hypovolemia. Will give IVF. If not improved, plan check urine 
lytes.

# Hypokalemia/Hypomagnesemia - repleted in ED and remained 
stable. Would appear that recent outpatient Mg 1.5 and patient 
also with mild hypokalemia. Possible ___ HCTZ use or RTA. Would 
consider d/c HCTZ as an outpatient and obtain urine electrolytes 
to rule out RTA.

CHRONIC ISSUES:

#Afib - not on anticoagulation. Continued Atenalol 25mg ___ 
325mg
#Anxiety - continued home lorazepam 0.5mg BID:PRN
#HLD - reported allergy to simva but LDL>190. Patient initiated 
on atorva 10 this admission
#HTN - continued HCTZ 12.5mg, losartan 25mg, BB as above
#GERD - continue home omeprazole
#Deficiencies - continued MVI, Vit D, Calcium

TRANSITIONAL ISSUES:

- consider d/c HCTZ as patient hypokalemic and hypomagnesemic on 
admission and BPs stable this admission
- f/u with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
3. Losartan Potassium 25 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. ipratropium bromide 0.03 % nasal Q12H 
7. Omeprazole 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Calcium Carbonate 500 mg PO Q24H 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lorazepam 0.5 mg PO Q12H:PRN anxiety 
5. Losartan Potassium 25 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
8. Calcium Carbonate 500 mg PO Q24H 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. ipratropium bromide 0.03 % nasal Q12H 
11. Multivitamins 1 TAB PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Back Pain

Secondary Diagnosis:
- Atrial Fibrillation
- Anxiety
- Hyperlipidemia
- Hypertension
- Gastroesophageal Reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your hospitalization. 
You were admitted for burning in your back. You underwent a CT 
scan and a stress test which did not show any cardiovascular 
source of your discomfort. There was a question that a cream you 
are using as an outpatient may be causing your discomfort. You 
should stop using this cream in the event that it is causing 
your discomfort. You should follow up with your primary care 
doctor.

Sincerely,

Your ___ Team
 
Followup Instructions:
___